datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].OCC[NH2+]CCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.OCC[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]CCc1ccc([O-])cc1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)[NH+:10](CCc1ccc([O-])cc1)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C=CCc1ccc2ccc[n:10]c2c1O.OCCCc1cc[n+:21]([H:20])cc1>>C=CCc1ccc2ccc[n+:10]([H:20])c2c1O.OCCCc1cc[n:21]cc1 10=20;20,21=21",
"Cc1cc(-n2c(C)cc(C)[n+:21]2[H:20])[nH]n1.O=C([O-])C(Cc1cccnc1)[NH2:10]>>Cc1cc(-n2c(C)cc(C)[n:21]2)[nH]n1.O=C([O-])C(Cc1cccnc1)[NH2+:10][H:20] 10=20;20,21=21",
"COc1ccc(O)c(C[NH:10]C(CO)C(=O)[O-])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1ccc(O)c(C[NH+:10](C(CO)C(=O)[O-])[H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCN(CC)S(=O)(=O)c1ccsc1C(=O)[O:21][H:20].[S-]CC[NH2:10]>>CCN(CC)S(=O)(=O)c1ccsc1C(=O)[O-:21].[S-]CC[NH2+:10][H:20] 10=20;20,21=21",
"CC(=CCl)C(=O)[O-:10].CCOc1ccc([NH+:21](c2ccccc2)[H:20])cc1>>CC(=CCl)C(=O)[O:10][H:20].CCOc1ccc([NH:21]c2ccccc2)cc1 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1cccc2ccccc12.N[NH+:21](CCO)[H:20]>>CC(C)[NH+:10](CC(O)COc1cccc2ccccc12)[H:20].N[NH:21]CCO 10=20;20,21=21",
"CCCCCCCCCCCCCC[N+:21](CCO)(CC(O)CC)[H:20].C[N:10](C)CCCN>>CCCCCCCCCCCCCC[N:21](CCO)CC(O)CC.C[N+:10](C)(CCCN)[H:20] 10=20;20,21=21",
"Fc1ccc([N:21](C(=S)c2ccccc2)[H:20])cc1.OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:10]2)[nH]1>>Fc1ccc([N-:21]C(=S)c2ccccc2)cc1.OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"C=CC[NH2:10].CC1CC[N+:21](C(C)C=C(c2cccs2)c2cccs2)([H:20])CC1>>C=CC[NH2+:10][H:20].CC1CC[N:21](C(C)C=C(c2cccs2)c2cccs2)CC1 10=20;20,21=21",
"C[N:10](C)CCCCNC(=O)/C=N/[O-].Cc1cc(Cc2cc([O:21][H:20])ccc2C)c([O-])c([N+](=O)[O-])c1>>C[N+:10](C)(CCCCNC(=O)/C=N/[O-])[H:20].Cc1cc(Cc2cc([O-:21])ccc2C)c([O-])c([N+](=O)[O-])c1 10=20;20,21=21",
"O=C(C1CCC1)[O:21][H:20].c1ccc(CC[NH2+]CC[S-:10])cc1>>O=C(C1CCC1)[O-:21].c1ccc(CC[NH2+]CC[S:10][H:20])cc1 10=20;20,21=21",
"CCCc1ccc(C)n[n+:21]1[H:20].c1ccc(-c2cc([O-:10])on2)cc1>>CCCc1ccc(C)n[n:21]1.c1ccc(-c2cc([O:10][H:20])on2)cc1 10=20;20,21=21",
"O=C([O-])C(CCc1ccc([N+](=O)[O-])cc1)[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C(CCc1ccc([N+](=O)[O-])cc1)[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)[N+:21]1([H:20])NC2CCC1CC2.CC(C)(C)c1ccc(O)c(C[N:10](C)C)c1>>CC(C)(C)[N:21]1NC2CCC1CC2.CC(C)(C)c1ccc(O)c(C[N+:10](C)(C)[H:20])c1 10=20;20,21=21",
"CC(=O)c1ccc([N:21](S(=O)(=O)c2ccccc2)[H:20])cc1.CC[N:10](CC)CCCC#N>>CC(=O)c1ccc([N-:21]S(=O)(=O)c2ccccc2)cc1.CC[N+:10](CC)(CCCC#N)[H:20] 10=20;20,21=21",
"Cc1cccc(C)c1Oc1cccc[n:10]1.Nc1nccc2c1[nH+]cn2CCOCP(=O)([O-])[O:21][H:20]>>Cc1cccc(C)c1Oc1cccc[n+:10]1[H:20].Nc1nccc2c1[nH+]cn2CCOCP(=O)([O-])[O-:21] 10=20;20,21=21",
"CCCP(CCC)(CCC)=[O:10].O=C(CC[N+:21]1([H:20])CCCCC1)c1ccccc1>>CCCP(CCC)(CCC)=[O+:10][H:20].O=C(CC[N:21]1CCCCC1)c1ccccc1 10=20;20,21=21",
"CC(=NO)c1cc(C)c(C)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=NO)c1cc(C)c(C)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(N)c2ccccc2[n+:21]1[H:20].Cc1cc(N)ccc1-c1ccc([NH2:10])cc1C>>Cc1cc(N)c2ccccc2[n:21]1.Cc1cc(N)ccc1-c1ccc([NH2+:10][H:20])cc1C 10=20;20,21=21",
"CN(CCC[NH3+])CCC[NH2+:21][H:20].O=C(O)c1ccc(O)c2c1ccc[n:10]2>>CN(CCC[NH3+])CCC[NH2:21].O=C(O)c1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CCCC[NH2:10])cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CCCC[NH2+:10][H:20])cc1 10=20;20,21=21",
"C1CC2([NH2:10])CC1C2.ONC(Cc1ccccc1)=[N+:21](O)[H:20]>>C1CC2([NH2+:10][H:20])CC1C2.ONC(Cc1ccccc1)=[N:21]O 10=20;20,21=21",
"CC[N:10](CC)CCSC1CCCCC1.NS(=O)(=O)c1cccc([NH2+:21][H:20])c1>>CC[N+:10](CC)(CCSC1CCCCC1)[H:20].NS(=O)(=O)c1cccc([NH2:21])c1 10=20;20,21=21",
"CC(C)(C)[NH:10]CCO.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)(C)[NH+:10](CCO)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C=CC#CCC(=O)[O-:10].c1ccc(Cc2cc(-c3ccccc3)n[n+:21]([H:20])c2NCC[NH+]2CCOCC2)cc1>>C=CC#CCC(=O)[O:10][H:20].c1ccc(Cc2cc(-c3ccccc3)n[n:21]c2NCC[NH+]2CCOCC2)cc1 10=20;20,21=21",
"CC(C)(CN)C[N+:21](C)(C)[H:20].[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH-:10]>>CC(C)(CN)C[N:21](C)C.[O-][n+]1cnc2ncn(Cc3ccccc3)c2c1[NH:10][H:20] 10=20;20,21=21",
"C#CCCC(=O)[O-:10].OC[C@@H]1O[C@H]([n+]2ccc(NO)nc2[O:21][H:20])[C@@H](O)[C@H]1O>>C#CCCC(=O)[O:10][H:20].OC[C@@H]1O[C@H]([n+]2ccc(NO)nc2[O-:21])[C@@H](O)[C@H]1O 10=20;20,21=21",
"COc1cccc(OC)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cccc(OC)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)C[N:10](C)C.O=[N+]([O-])c1ccc2[nH]c(-c3ccccc3)[n+:21]([H:20])c2c1>>CC(C)C[N+:10](C)(C)[H:20].O=[N+]([O-])c1ccc2[nH]c(-c3ccccc3)[n:21]c2c1 10=20;20,21=21",
